US04069250
Sodium 2,4,6-triiodo-5-methoxyacetamido-N-[tris(hydroxymethyl)methyl]isophthalamate
2,4,6-Triiodo-5-methoxyacetamido-N-[tris(hydroxymethyl)methyl] isophthalamic acid (2.03 g.) was dissolved in a stoichiometric quantity of 0.1032 N NaOH. The solution was evaporated under reduced pressure at 60° C. and the residual sodium salt was dried at 45° C. overnight. The solubility of this sodium salt in water at 25° C. is approximately 67.4% (w/v). The following examples illustrate the use of certain compounds of the invention in the preparation of X-ray contrast media.

reactant | 2,4,6-Triiodo-5-methoxyacetamido-N-[tris(hydroxymethyl)methyl] isophthalamic acid | 2.03 g | IC1=C(C(=O)O)C(=C(C(=C1C(=O)NC(CO)(CO)CO)I)NC(COC)=O)I | C15H17I3N2O8
reactant | NaOH | 0.1032 N | [OH-].[Na+]
product | Sodium 2,4,6-triiodo-5-methoxyacetamido-N-[tris(hydroxymethyl)methyl]isophthalamate | IC1=C(C(=O)[O-])C(=C(C(=C1C(=O)NC(CO)(CO)CO)I)NC(COC)=O)I.[Na+] | InChI=1S/C15H17I3N2O8.Na/c1-28-2-6(24)19-12-10(17)7(9(16)8(11(12)18)14(26)27)13(25)20-15(3-21,4-22)5-23;/h21-23H,2-5H2,1H3,(H,19,24)(H,20,25)(H,26,27);/q;+1/p-1
